US06884774B2
To a solution of 4-[2-[4-[4-(5-methoxypentyloxy)-piperidin-1-yl]phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid (1.28 g) and 1-hydroxybenzotriazole (465 mg) in dichloromethane (50 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (WSCD.HCl) (943 mg), and the mixture was stirred overnight at ambient temperature. The reaction mixture was evaporated in vacuo. To the resulting precipitate was added water (50 ml) and filtered. The precipitate was washed with water and IPE (50 ml) and dried under reduced pressure for 3 hours to give 4-[2-[4-[4-(5-methoxypentyloxy)piperidin-1-yl]phenyl]imidazo-[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid benzotriazol-1-yl ester (1.26 g).

reactant | 4-[2-[4-[4-(5-methoxypentyloxy)-piperidin-1-yl]phenyl]imidazo[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid | 1.28 g | COCCCCCOC1CCN(CC1)C1=CC=C(C=C1)C1=NN2C(S1)=NC(=C2)C2=CC=C(C(=O)O)C=C2 | C28H32N4O4S
reactant | 1-hydroxybenzotriazole | 465 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 943 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[2-[4-[4-(5-methoxypentyloxy)piperidin-1-yl]phenyl]imidazo-[2,1-b][1,3,4]thiadiazol-6-yl]benzoic acid benzotriazol-1-yl ester | 1.26 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)C=2N=C1SC(=NN1C2)C2=CC=C(C=C2)N2CCC(CC2)OCCCCCOC)=O | C34H35N7O4S
